US09119868B2
Step 1: 6-(N-(3-cyano-4-nitrophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A mixture of 5-fluoro-2-nitrobenzonitrile (1.280 mL, 11.18 mmol), 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide (3.0 g, 7.45 mmol) and K2CO3 (3.09 g, 22.36 mmol) in 1,2-dimethoxyethane (30 mL) and water (7.5 mL) in a seal tube was heated to 80° C. overnight. It was cooled down to room temperature, diluted with EtOAc, filtered and the off-white solid was washed with water and then dried in vacuo to give crude desired product as a yellow solid (80% purity, 3.9 g, 76%). LCMS (m/z, ES+)=549 (M+H+)

reactant | 5-fluoro-2-nitrobenzonitrile | 11.18 mmol, 1.280 mL | FC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H3FN2O2
reactant | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(methylsulfonamido)benzofuran-3-carboxamide | 7.45 mmol, 3.0 g | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)NS(=O)(=O)C | C20H19FN2O4S
reactant | K2CO3 | 22.36 mmol, 3.09 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
solvent | water | 7.5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(N-(3-cyano-4-nitrophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 3.9 g | C(#N)C=1C=C(C=CC1[N+](=O)[O-])N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C27H21FN4O6S
